US06521754B2
(4-Methoxy-benzothiazol-2-yl)-urea
A mixture of 2-amino-4-methoxy-benzothiazole (330 mg, 1.83 mmol) and urea (1.1 g, 1.83 mmol) were heated together for 1 h at 170° C., with evolution of ammonia. After allowing to cool to r.t., water (10 ml) was added and the mixture was vigorously stirred. The solid was then filtered, washed with water (10 ml) followed by ethanol (10 ml) and dried at 60° C. under vaccum (0.05 mmHg). The title product was afforded as an off-white solid (300 mg, 73% yield), MS: m/e=223 (M+).

reactant | 2-amino-4-methoxy-benzothiazole | 1.83 mmol, 330 mg | NC=1SC2=C(N1)C(=CC=C2)OC | C8H8N2OS
reactant | urea | 1.83 mmol, 1.1 g | NC(=O)N | CH4N2O
reactant | ammonia | N | H3N
solvent | water | 10 ml | O | H2O
product | (4-Methoxy-benzothiazol-2-yl)-urea | COC1=CC=CC2=C1N=C(S2)NC(=O)N | C9H9N3O2S
